US07855285B2
The sodium salt of 6-(2-propylimidazol-1-yl)purine (55 mg, 0.24 mmol) in dried CH3CN (5 mL) was treated with 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride (0.15 g, 0.39 mmol) in toluene (5 mL) by general method 1. The residue was chromatographed (25 g silica gel, MeOH/CH2Cl2, 1:12) to give the two diastereomers [quantitative, containing traces of α-anomer (α/β ˜1:34)]. Recrystallization (EtOAc) gave 9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-propylimidazol-1-yl)purine (68.7 mg, 53%): mp 197-197.5° C.; UV (MeOH) max 242, 276 nm (∈ 31200, 12 500), min 223, 263 nm (∈ 16 400, 9700); 1H NMR (500 MHz, CDCl3) δ 8.80 (s, 1H), 8.41 (s, 1H), 8.28 (s, 1H), 8.00 (d, J=8.3 Hz, 2H), 7.89 (d, J=8.3 Hz, 2H), 7.31 (d, J=8.3 Hz, 2H), 7.21 (d, J=8.3 Hz, 2H), 7.12 (s, 1H) 6.65 (dd, J=6.2, 8.1 Hz, 1H), 5.85-5.87 (m, 1H), 4.68-4.83 (m, 3H), 3.30 (t, J=7.3 Hz, 2H), 3.17-3.23 (m, 1H), 2.91-2.95 (m, 1H), 2.47 (s, 3H), 2.39 (s, 3H), 1.85 (sext, J=7.5 Hz, 2H), 1.03 (t, J=7.3 Hz, 3H); NOE difference: irradiation at H1′ gave enhancement of the H4′ (small), H8 and H2′,2″ signals; 13C NMR (125 MHz, CDCl3) δ 166.4, 166.2, 153.1, 152.1, 151.0, 148.1, 144.9, 144.6, 142.4, 130.1, 129.8, 129.6, 129.5, 128.8, 126.8, 126.5, 124.6, 120.8, 85.5, 83.6, 75.2, 64.1, 38.3, 32.8, 22.0, 21.9, 21.5, 14.3; HRMS m/z 603.2347 (MNa+ [C32H32N6O5Na]=603.2332); Anal. Calcd for C32H32N6O5: C, 66.20; H, 5.56; N, 14.47. Found: C, 66.59; H, 5.67; N, 14.62.

reactant | sodium | [Na] | Na
reactant | 6-(2-propylimidazol-1-yl)purine | 0.24 mmol, 55 mg | C(CC)C=1N(C=CN1)C1=C2NC=NC2=NC=N1 | C11H12N6
reactant | 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride | 0.39 mmol, 0.15 g | C1(=CC=C(C=C1)C(=O)O[C@H]1C[C@H](O[C@@H]1COC(=O)C1=CC=C(C=C1)C)Cl)C | C21H21ClO5
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-propylimidazol-1-yl)purine | 68.7 mg, 53% | C1(=CC=C(C=C1)C(=O)O[C@H]1C[C@@H](O[C@@H]1COC(=O)C1=CC=C(C=C1)C)N1C2=NC=NC(=C2N=C1)N1C(=NC=C1)CCC)C | C32H32N6O5
